US08729263B2
Step 3: 5-(1H-Pyrazol-4-yl)-2-(6-((2,2,6,6-tetramethylpiperidin-4-yl)oxy)pyridazin-3-yl)phenol. Hydrochloride salt
Following GENERAL METHOD 3-1 for phenol deprotection using thiophenol, 3-(2-methoxy-4-(1H-pyrazol-4-yl)phenyl)-6-((2,2,6,6-tetramethylpiperidin-4-yl)oxy)pyridazine (0.58 mg, 1.41 mmol) was treated with thiophenol (0.15 mg, 1.36 mmol) and K2CO3 (0.23 mg, 1.64 mmol) in NMP (9 mL) for 15 min at 190° C. After purification (0.1% trifluoroacetic acid as modifier), desired fractions were free based by catch and release using SiliaBond Propylsulfonic Acid® (5 g, MeOH as eluent and a 2 N ammonia solution in MeOH to release the material). The solvent was evaporated under reduced pressure. The resulting beige solid was dissolved in CH3CN/H2O/MeOH (6/1/6 mL) and SiliaMetS® DMT (2.7 g, 1.4 mmol) was added and the mixture was shaken 18 h. The mixture was then filtered through a small celite plug and the filtrate was purified by catch and release using SiliaBond Propylsulfonic Acid® (5 g, MeOH as eluent and a 2 N ammonia solution in MeOH to release the material). The solvent was concentrated in vacuo and the resulting solid was suspended in CH3CN/H2O (4/1 mL). 4 N HCl in 1,4-dioxane (4 equivalents) was added and solvent was concentrated in vacuo to afford a yellow solid (59 mg, 9%). LCMS RT=0.51 min (LCMS method Q); [M+H]: 394.2225; 1H NMR (400 MHz, DMSO-d6) δ 9.10 (d, J=12.0 Hz, 1H), 8.49 (d, J=9.5 Hz, 1H), 8.36 (d, J=12.0 Hz, 1H), 8.16 (s, 1H), 7.94 (d, J=8.0 Hz, 1H), 7.47 (d, J=9.5 Hz, 1H), 7.21-7.28 (m, 2H), 5.63-5.87 (m, 1H), 2.34 (dd, J=13.0, 4.0 Hz, 2H), 1.81 (dd, J=13.0, 10.5 Hz, 2H), 1.53 (s, 6H), 1.50 (s, 6H).

reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | thiophenol | C1(=CC=CC=C1)S | C6H6S
reactant | 3-(2-methoxy-4-(1H-pyrazol-4-yl)phenyl)-6-((2,2,6,6-tetramethylpiperidin-4-yl)oxy)pyridazine | 1.41 mmol, 0.58 mg | COC1=C(C=CC(=C1)C=1C=NNC1)C=1N=NC(=CC1)OC1CC(NC(C1)(C)C)(C)C | C23H29N5O2
reactant | thiophenol | 1.36 mmol, 0.15 mg | C1(=CC=CC=C1)S | C6H6S
reactant | K2CO3 | 1.64 mmol, 0.23 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | 4 N | Cl | ClH
reactant | 1,4-dioxane | 4 equivalents | O1CCOCC1 | C4H8O2
solvent | NMP | 9 mL | CN1CCCC1=O | C5H9NO
product | 5-(1H-Pyrazol-4-yl)-2-(6-((2,2,6,6-tetramethylpiperidin-4-yl)oxy)pyridazin-3-yl)phenol. Hydrochloride salt | 59 mg, 9% | Cl.N1N=CC(=C1)C=1C=CC(=C(C1)O)C=1N=NC(=CC1)OC1CC(NC(C1)(C)C)(C)C | InChI=1S/C22H27N5O2.ClH/c1-21(2)10-16(11-22(3,4)27-21)29-20-8-7-18(25-26-20)17-6-5-14(9-19(17)28)15-12-23-24-13-15;/h5-9,12-13,16,27-28H,10-11H2,1-4H3,(H,23,24);1H
